US07504508B2
(2S,4R)-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-fluoro-acetic acid ethyl ester (H-3)
(2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (202 mg, 0.46 mmol) was dissolved in DMF (2 mL) at room temperature. Cs2CO3 (760 mg, 2.33 mmol) was added followed by bromo-fluoro-acetic acid ethyl ester (0.070 mL, 0.583 mmol) and the reaction was allowed to stir overnight. The mixture was partitioned between methylene chloride and water; the organic layer was dried over Na2SO4, filtered and concentrated. The crude residue was purified by silica gel chromatography (2/1 hexanes/ethyl acetate) to afford the product.

reactant | (2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | 0.46 mmol, 202 mg | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)O)=O)C | C25H23ClN2O3
reactant | Cs2CO3 | 2.33 mmol, 760 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | bromo-fluoro-acetic acid ethyl ester | 0.583 mmol, 0.070 mL | C(C)OC(C(F)Br)=O | C4H6BrFO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-fluoro-acetic acid ethyl ester | C(C)OC([C@H](F)OC1=CC=C(C=C1)C(=O)N1C(C[C@H](C2=CC=CC=C12)N(C1=CC=C(C=C1)Cl)C(C)=O)C)=O | C29H28ClFN2O5
